US07241791B2
Step 2: 4-[-allyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol
Prepared according to Method D step C from 1-allyl-3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole (0.065 g, 0.18 mmol), boron tribromide (0.136 mL, 1.4 mmol) and 1.0 mL of cyclohexene to give the product (0.066 g) as a white solid.

reactant | 1-allyl-3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole | 0.18 mmol, 0.065 g | C(C=C)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)OC)OC | C19H17F3N2O2
reactant | boron tribromide | 1.4 mmol, 0.136 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-[-allyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol | 0.066 g | C(C=C)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)O)O | C17H13F3N2O2
